US05221752
[2-Hydroxy-2-(N-t-butyloxycarbonylpyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester (100 mg) was dissolved in dichloromethane (1 ml) and 1 ml of a 4N hydrochloric acid/dioxane solution was added to the solution under cooling with ice to conduct a reaction at room temperature for 2 h. The reaction liquid was concentrated under reduced pressure and the residue was washed with n-hexane several times and concentrated to give [2-hydroxy-2-(pyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester hydrochloride.

reactant | [2-Hydroxy-2-(N-t-butyloxycarbonylpyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester | 100 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@H](NC(C(C1N(CCC1)C(=O)OC(C)(C)C)O)=O)CC(C)C)=O)C(C)C)=O | C29H45N3O7
reactant | hydrochloric acid dioxane | 4N | Cl.O1CCOCC1
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [2-hydroxy-2-(pyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@H](NC(C(C1NCCC1)O)=O)CC(C)C)=O)C(C)C)=O | InChI=1S/C24H37N3O5.ClH/c1-15(2)13-19(26-23(30)21(28)18-11-8-12-25-18)22(29)27-20(16(3)4)24(31)32-14-17-9-6-5-7-10-17;/h5-7,9-10,15-16,18-21,25,28H,8,11-14H2,1-4H3,(H,26,30)(H,27,29);1H/t18?,19-,20+,21?;/m1./s1
